US07265149B2
In analogy to the procedure described in example 1 c], 6-benzyloxy-4-methyl-1H-indole was reacted with bromo-acetic acid tert-butyl ester in the presence of cesium carbonate in DMF to obtain (6-benzyloxy-4-methyl-indol-1-yl)-acetic acid tert-butyl ester as yellow oil.

reactant | 6-benzyloxy-4-methyl-1H-indole | C(C1=CC=CC=C1)OC1=CC(=C2C=CNC2=C1)C | C16H15NO
reactant | bromo-acetic acid tert-butyl ester | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
product | (6-benzyloxy-4-methyl-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=C(C=C(C=C12)OCC1=CC=CC=C1)C)=O | C22H25NO3
